US06265418B1
In 50 ml of DMF was dissolved 2.50 g (13.3 mmol) of allyl 4-cyanobenzoate, then, 2.8 g of magnesium chloride.6H2O and 2.20 g (27.5 mmol) of 70% sodium hydrosulfide were added to the solution at room temperature, and after stirring at the same temperature for one hour, 150 ml of water was added to the mixture. After adjusting the pH to 3 with a 20% aqueous potassium hydrogen sulfate, the precipitated solid was collected by filtration to obtain 2.92 g (13.2 mmol) of allyl 4-thiocarbamoylbenzoate as yellowish solid.

reactant | allyl 4-cyanobenzoate | 13.3 mmol, 2.50 g | C(#N)C1=CC=C(C(=O)OCC=C)C=C1 | C11H9NO2
reactant | magnesium chloride | 2.8 g | [Cl-].[Mg+2].[Cl-]
reactant | sodium hydrosulfide | 27.5 mmol, 2.20 g | [SH-].[Na+]
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | 150 ml | O | H2O
product | allyl 4-thiocarbamoylbenzoate | 13.2 mmol, 2.92 g | C(N)(=S)C1=CC=C(C(=O)OCC=C)C=C1 | C11H11NO2S
